US06451810B1
According to the general method of Example 61, 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine and quinoline-2-carbonyl chloride were combined to provide N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-quinolinecarboxamide as an off white crystalline solid, m.p. 81.1-83.9° C. 1H NMR (300 MHz, DMSO-d6) δ8.90 (t, J=6.0 Hz, 1H), 8.55 (d, J=8.5 Hz, 1H), 8.12-8.07 (m, 4H), 7.90-7.84 (m, 1H), 7.75-7.54 (m, 7H), 7.36 (t, J=7.5 Hz, 1H), 7.18 (t, J=7.5 Hz, 1H), 6.70 (broad s, 2H), 4.61 (m, 2H), 3.23 (m, 2H), 1.88 (m, 2H), 1.49 (m, 2H); MS (CI) m/e 487 (M+H).

reactant | 1-(4-aminobutyl)-2-phenyl-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)C2=CC=CC=C2 | C20H21N5
reactant | quinoline-2-carbonyl chloride | N1=C(C=CC2=CC=CC=C12)C(=O)Cl | C10H6ClNO
product | N-[4-(4-amino-2-phenyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-2-quinolinecarboxamide | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCNC(=O)C2=NC1=CC=CC=C1C=C2)C2=CC=CC=C2 | C30H26N6O
